US09079866B2
1-(2-Bromophenyl)-N-methylmethanesulfonamide
To a solution of (2-bromophenyl)methanesulfonyl chloride (2 g, 7 mmol) in THF (15 mL) was added CH3NH2/H2O (25%, 2 g, 20 mmol) at 0° Celsius. The resulting mixture was warmed up to rt, stirred for 16 hours, concentrated to dryness and purified by HPLC to give the title compound (0.8 g, 41%). MS (ESI): mass calcd. for C8H8BrO2S, 262.96; m/z found, 264.0 [M+H]+; 1H NMR (300 MHz, CDCl3) δ 7.65-7.54 (m, 2H), 7.35 (m, 1H), 7.22 (dd, J=7.6, 1.7, 1H), 4.53 (s, 2H), 4.10 (s, 1H), 2.72 (s, 3H).

reactant | (2-bromophenyl)methanesulfonyl chloride | 7 mmol, 2 g | BrC1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6BrClO2S
reactant | CH3NH2 H2O | 20 mmol, 2 g | CN.O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2-Bromophenyl)-N-methylmethanesulfonamide | 0.8 g, 41% | BrC1=C(C=CC=C1)CS(=O)(=O)NC | C8H10BrNO2S
